US08487102B2
d) [1-Ethyl-4-(4-fluoro-2-methyl-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-carbamic acid tert-butyl ester
To a solution of 1-ethyl-4-(4-fluoro-2-methyl-phenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (3.6 g, 0.011 mol) in EtOH (20 mL) and THF (20 mL) was added an aqueous solution of NaOH (1N, 16.5 mL, 0.016 mol) and the mixture was heated at 50° C. for 3 hours. After cooling down to RT, the mixture was acidified with aqueous HCl (1N) until pH reached 3 and the product extracted with EtOAc. The combined organic phases were dried over Na2SO4 and concentrated to give the crude acid which was used directly in the next step without further purification. The residue was taken up in THF (90 mL) before Et3N (1.49 mL, 0.0107 mol), DPPA (diphenyl phosphorazidate, 2.94 g, 0.0107 mol) and tBuOH (4.0 mL, 0.0428 mol) were added. The reaction mixture was heated at 60° C. for 7 hours, volatiles were then partially evaporated, and the concentrated solution poured onto EtOAc (200 mL) and washed with H2O. The organic layer was dried over Na2SO4, and purification by column chromatography (SiO2, EtOAc/Heptane 1/4) yielded 2.6 g (65%) of the title compound as a white solid. ES-MS m/e: 371.2 (M+H+).

reactant | 1-ethyl-4-(4-fluoro-2-methyl-phenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.011 mol, 3.6 g | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)C2=C(C=C(C=C2)F)C | C18H18FN3O2
reactant | NaOH | 0.016 mol, 1N, 16.5 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | Et3N | 0.0107 mol, 1.49 mL | CCN(CC)CC | C6H15N
reactant | DPPA | 0.0107 mol, 2.94 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | tBuOH | 0.0428 mol, 4.0 mL | CC(C)(C)O | C4H10O
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | [1-Ethyl-4-(4-fluoro-2-methyl-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-carbamic acid tert-butyl ester | 2.6 g, 65% | C(C)(C)(C)OC(NC=1C(=C2C(=NC1)N(N=C2)CC)C2=C(C=C(C=C2)F)C)=O | C20H23FN4O2
